US08048902B2
1-(3,5-dibromo-phenyl)-ethanone and (S)-(−)-2-methyl-CBS-oxazaborolidine were reacted as described in Example 35, Step 1 to provide (R)-1-(3,5-dibromo-phenyl)-ethanol.

reactant | 1-(3,5-dibromo-phenyl)-ethanone | BrC=1C=C(C=C(C1)Br)C(C)=O | C8H6Br2O
reactant | (S)-(−)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
product | (R)-1-(3,5-dibromo-phenyl)-ethanol | BrC=1C=C(C=C(C1)Br)[C@@H](C)O | C8H8Br2O
